US07384963B2
N-Ethyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4-phenoxybenzyl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4-phenoxybenzyl)-1,1′-biphenyl-4-carboxamide and iodoethane using method L. NMR; δH [2H6]—DMSO 7.89,(1H, d), 776,(1H, s), 7.55-7.48,(5H, m), 7.40-7.36,(3H, m), 7.24,(1H, b), 7.13,(1H, t), 7.00,(4H, m), 4.694.51,(2H, m), 3.39-3.22,(2H, m), 2.55,(3H, s), 2.31,(3H, s), 1.08,(3H, b). LCMS; retention time 3.93 min, MH+ 504.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4-phenoxybenzyl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)OC1=CC=CC=C1 | C30H25N3O3
reactant | iodoethane | ICC | C2H5I
product | N-Ethyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4-phenoxybenzyl)-1,1′-biphenyl-4-carboxamide | C(C)N(C(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C32H29N3O3
